US08389555B2
STEP E: Preparation of 5-oxo-5-(4-phenylpiperazin-1-yl)pentanal
A solution of 1.11 mL (12.8 mmol) oxalyl chloride in 35 mL of dichloromethane is cooled to −80° C. under argon atmosphere. 2.33 mL (32.7 mmol) of dimethylsulfoxide in 9.33 mL of dichloromethane is introduced dropwise over 10 minutes. After 5 minutes a solution of 1.84 (7 mmol) 5-hydroxy-1-(4-phenylpiperazin-1-yl)pentan-1-one in 8 mL dichloromethane and 2 mL dimethylsulfoxide is added over the course of 10 minutes. The reaction mixture is stirred for another hour at −80° C. before 5 mL of triethylamine is added and the mixture is allowed to warm up to room temperature. 50 mL of saturated brine solution is added for hydrolysis. The organic phase is separated, extracted three times with a saturated solution of sodium chloride, dried over sodium sulfate and the solvent is evaporated. The crude product is obtained in almost quantitative yield.

reactant | oxalyl chloride | 12.8 mmol, 1.11 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-hydroxy-1-(4-phenylpiperazin-1-yl)pentan-1-one | OCCCCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C15H22N2O2
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 9.33 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | brine | 50 mL | [Cl-].[Na+].O
solvent | dimethylsulfoxide | 32.7 mmol, 2.33 mL | CS(=O)C | C2H6OS
product | 5-oxo-5-(4-phenylpiperazin-1-yl)pentanal | quantitative yield | O=C(CCCC=O)N1CCN(CC1)C1=CC=CC=C1 | C15H20N2O2
